US06448430B1
A 300 ml, round-bottom flask with a nitrogen inlet and a magnetic stir bar was flushed with nitrogen for ten minutes. Nonanoic acid (4.45 g, 28.0 millimoles—mmol), sodium phenolsulfonate (5.00 g, 25.0 mmol) and TFA were placed in the flask which was sealed with a septum cap and the resulting slurry was stirred while being cooled by an ice-water bath. A single rapid addition of TFAA (6.5 ml) was made via syringe. Within one minute the slurry is dissolved to yield a homogeneous solution. The stirring was continued for five minutes. The volatiles were removed by rotary evaporation yielding a white solid that was washed with 100 ml of acetone and collected on a Buchner funnel. The resulting white solid was dried under reduced pressure yielding 7.90 g (94% yield) of sodium 4-(nonanoyloxy)benzene-sulfonate (NOBS). 1H and 13C NMR show complete conversion of the SPS to NOBS.

reactant | Nonanoic acid | 28.0 millimoles, 4.45 g | C(CCCCCCCC)(=O)O | C9H18O2
reactant | sodium phenolsulfonate | 25.0 mmol, 5.00 g | C1=CC=C(C(=C1)O)S(=O)(=O)[O-].[Na+]
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | TFAA | 6.5 ml | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
product | sodium 4-(nonanoyloxy)benzene-sulfonate | 7.90 g, 94% yield | C(CCCCCCCC)(=O)OC1=CC=C(C=C1)S(=O)(=O)[O-].[Na+] | InChI=1S/C15H22O5S.Na/c1-2-3-4-5-6-7-8-15(16)20-13-9-11-14(12-10-13)21(17,18)19;/h9-12H,2-8H2,1H3,(H,17,18,19);/q;+1/p-1
